US06498156B2
c) 4-[3-[3-(tert-Butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-2-(4-methoxyphenyl)-4-oxoazetidin-1-yl]benzonitrile (62)
13.2 g of 4-[5-(tert-butyldimethylsilanyloxy)-5-(4-fluorophenyl)-1-(4-methoxyphenyl)-2-(2-oxo-4-phenyloxazolidine-3-carbonyl)pentylamino]benzonitrile are dissolved in 380 ml of methyl tert-butyl ether, 18.6 ml of N,O-bis(trimethylsilyl)acetamide and 1.86 ml of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran are added and the mixture is stirred at room temperature for 2 h. Once the reaction has ended, 10 ml of acetic acid are added, the reaction mixture is concentrated under reduced pressure and the residue is purified on silica gel using toluene/ethyl acetate 50/1. This gives 4-[3-[3-(tert-butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-2-(4-methoxyphenyl)-4-oxoazetidin-1-yl]benzonitrile of molecular weight 544.75 (C32H37FN2O3Si); MS (ESI): 545.56 (M+H+).

reactant | 4-[5-(tert-butyldimethylsilanyloxy)-5-(4-fluorophenyl)-1-(4-methoxyphenyl)-2-(2-oxo-4-phenyloxazolidine-3-carbonyl)pentylamino]benzonitrile | 13.2 g | [Si](C)(C)(C(C)(C)C)OC(CCC(C(C1=CC=C(C=C1)OC)NC1=CC=C(C#N)C=C1)C(=O)N1C(OCC1C1=CC=CC=C1)=O)C1=CC=C(C=C1)F | C41H46FN3O5Si
reactant | N,O-bis(trimethylsilyl)acetamide | 18.6 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | methyl tert-butyl ether | 380 ml | C(C)(C)(C)OC | C5H12O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[3-[3-(tert-Butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-2-(4-methoxyphenyl)-4-oxoazetidin-1-yl]benzonitrile | [Si](C)(C)(C(C)(C)C)OC(CCC1C(N(C1=O)C1=CC=C(C#N)C=C1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)F | C32H37FN2O3Si
